datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:17]([c:18]1[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]1[H:30])([H:24])[H:25])[H:7],36.2334
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([C:6]([C:7]([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:8]>>[C:0](#[C:1][C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8],79.8726
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16]([C:17]([H:24])([H:25])[H:26])=[C:18]([C:19]([H:27])([H:28])[H:29])[C:20]([H:30])([H:31])[H:32])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:16]([C:15]([H:21])([H:22])[H:23])([C:17]([H:24])([H:25])[H:26])[C:18]([C:19]([H:27])([H:28])[H:29])[C:20]([H:30])([H:31])[H:32])[H:8])([H:6])[H:7],75.2702
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](#[C:18][C:19]([C:20]([H:23])([H:24])[H:25])[H:22])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:19]([C:18]#[C:17][H:21])([C:20]([H:23])([H:24])[H:25])[H:22])[H:7],33.2628
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[C:19](=[O:20])[H:21]>>[C-:19]#[O+:20].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:21],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6][H:23])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25],85.47912
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:12],59.9986
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])=[C:16]([C:17]([H:25])([H:26])[H:27])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16]([C:17]([H:25])([H:26])[H:27])[H:24])[H:5],43.4718
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:19])([H:20])[H:21])=[C:9]([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:22])([H:16])([H:17])[H:18]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:9]([C:7]([C:6]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:22])[H:3],48.367
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([S:6][H:9])([H:7])[H:8]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5]([S:6][H:9])([H:7])[H:8],-10.8784
[C:0]([C:1](=[C:2]([H:7])[H:8])[O:3][O:4][H:9])([H:5])[H:6]>>[C:0]1([H:5])([H:6])[C:1](=[C:2]([H:7])[H:8])[O:3]1.[O:4][H:9],92.048
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[O:4]1)([H:9])[H:10])([H:6])([H:7])[H:8].[O:5][H:14],45.6056
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:27])([H:28])[H:29])=[C:16]([C:17]([H:30])([H:31])[H:32])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:24])[H:25])[H:26])([C:15]([H:27])([H:28])[H:29])[C:16]([C:17]([H:30])([H:31])[H:32])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:5],38.4091
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:13])[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32])([H:10])([H:11])[H:12],-2.59408
